US03944607
A solution of 13.8 g (0.2 mol) of N-methylpropargylamine in 20 ml methylene chloride was added dropwise to a stirred and cooled (below 15°C.) solution of 40.2 g (0.2 mol) bromoacetyl bromide and 16 g (0.2 mol) sodium bicarbonate in 250 ml methylene chloride. The reaction mixture was allowed to warm to about 25°C. and stirred for 2 hours. The reaction mixture was then filtered and evaporated under reduced pressure to give an oily residue. The residue was diluted with 150 ml ether to form a two-phase mixture consisting of an ether phase and a dark oil. The ether phase was separated, dried over magnesium sulfate, and evaporated to give 32.3 g of N-methyl-N-propargyl-α-bromoacetamide.

reactant | N-methylpropargylamine | 0.2 mol, 13.8 g | CNCC#C | C4H7N
reactant | bromoacetyl bromide | 0.2 mol, 40.2 g | BrCC(=O)Br | C2H2Br2O
reactant | sodium bicarbonate | 0.2 mol, 16 g | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 150 ml | CCOCC | C4H10O
product | N-methyl-N-propargyl-α-bromoacetamide | 32.3 g | CN(C(CBr)=O)CC#C | C6H8BrNO
